US09193693B2
A solution of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (50 mg, 0.15 mmol, 1.00 equiv), 1-(pyridin-2-yl)piperazine (50 mg, 0.31 mmol, 2.00 equiv), and DIEA (100 mg, 0.78 mmol, 3.00 equiv) in DMF (10 mL) was placed in a 20-mL sealed tube under an inert atmosphere and stirred overnight at 100° C. in an oil bath and then concentrated under vacuum. Purification via silica gel column (ethyl acetate/petroleum ether (1:10)) yielded 68 mg (crude) of methyl 2-phenyl-3-(4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate as a yellow solid

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.15 mmol, 50 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 1-(pyridin-2-yl)piperazine | 0.31 mmol, 50 mg, 2.00 equiv | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | DIEA | 0.78 mmol, 100 mg, 3.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 2-phenyl-3-(4-(pyridin-2-yl)piperazin-1-yl)quinoxaline-6-carboxylate | 68 mg | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCN(CC1)C1=NC=CC=C1)C(=O)OC | C25H23N5O2
